Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Sigmoid diverticulitis c/b uterine abscess 
 
Major Surgical or Invasive Procedure:
___ GUIDED ASPIRATION OF UTERINE ABSCESS

 
History of Present Illness:
___ year old female with PMH of mild dementia, renal cell mass
followed by urologist Dr. ___ who initially
presented to ___ on ___ after she fell out of bed
and found to have intraabdominal abscess. She was transferred to
___ for ___ drainage. 

In regards to her initial presentation, the patient fell out of
bed the morning of ___. She did not lose consciousness, have
dizziness, or any chest pain. With her initial WBC count of 18k
with left shift, there was concern for colitis as she was noted
to have one month of persistent diarrhea, weight loss, and
weakness. Imaging at ___ was notable for a CT head without
contrast that showed a scalp hematoma over the left frontal bone
but no intracranial hematoma. She had a MRI and CT of her pelvis
that showed sigmoid diverticulitis with "an intense inflammatory
process involving the mesentery and uterus with an associated 
4.4
cm intrauterine abscess. Underlying malignancy could not be
excluded." The patient did not want to proceed with surgery.
Ob/gyn was consulted and reported that the abscess formation is
within the myometrium and in direct communication with the
sigmoid colon. They did not believe that this was drainable via
hysteroscopy. ___ then evaluated the patient and believed they
should be transferred to a tertiary ___ drainage. She has
been on Zosyn since admission at ___.
 
On arrival to the floor, the patient endorses the above story.
History is difficult to obtain as patient is poor historian. She
reports diarrhea but cannot quantify how much or how much weight
she has lost. She has never had any abdominal pain, fevers,
chills, dysuria, vaginal bleeding. In fact, the patient reports
feeling very well. She does not have any musculoskeletal
complaints and does not have any pain from her hematoma.
 

Review of Systems: Pertinent as per HPI 
 
Past Medical History:
Hypertension
Renal mass followed with serial imaging
Vascular Dementia
Appendectomy ___ years ago

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================  
VITALS: 97.8 PO 149 / 80 R Lying 76 28 96 Ra  
GENERAL: Alert and interactive. AOx2. She did not know the year 
or month. In no acute distress.  Pleasant.
HEENT: Patient with large left forehead hematoma extending 
periorbitally. PEERLA  
NECK: Supple 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants.  
EXTREMITIES: No clubbing, cyanosis, or edema.  SKIN: Warm. Cap 
refill <2s. No rashes.  
NEUROLOGIC: CN2-12 intact. Moving all 4 limbs spontaneously. ___ 
strength throughout. Normal sensation. 

DISCHARGE PHYSICAL EXAM:
======================== 
___ 1533 Temp: 97.4 PO BP: 149/81 L Lying HR: 103 
RR:
18 O2 sat: 95% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.  Pleasant.
HEENT: Patient with large left forehead hematoma extending
periorbitally. MMM
CARDIAC: Regular rhythm and rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
ABDOMEN: Normal bowels sounds, non distended. Mildly tender to
deep palpation in b/l LQ, suprapubic region. No rebound
tenderness. Drain in place with purulent yellow-green drainage. 
EXTREMITIES: No clubbing, cyanosis, or edema. 
NEUROLOGIC: CN2-12 grossly intact. Moving all 4 limbs
spontaneously. 

 
Pertinent Results:
=============
ADMISSION LABS:
============
___ 07:50AM BLOOD WBC-15.0* RBC-4.42 Hgb-12.1 Hct-37.9 
MCV-86 MCH-27.4 MCHC-31.9* RDW-13.9 RDWSD-43.0 Plt ___
___ 07:50AM BLOOD Glucose-76 UreaN-4* Creat-0.8 Na-139 
K-4.1 Cl-102 HCO3-25 AnGap-12
___ 07:50AM BLOOD ALT-28 AST-62* AlkPhos-69 TotBili-0.5

==============
DISCHARGE LABS:
==============
___ 07:08AM BLOOD WBC-15.3* RBC-4.08 Hgb-11.2 Hct-35.1 
MCV-86 MCH-27.5 MCHC-31.9* RDW-14.4 RDWSD-45.0 Plt ___
___ 07:08AM BLOOD Neuts-86.2* Lymphs-5.5* Monos-5.2 Eos-1.9 
Baso-0.3 Im ___ AbsNeut-13.14* AbsLymp-0.84* AbsMono-0.80 
AbsEos-0.29 AbsBaso-0.05
___ 07:08AM BLOOD Glucose-101* UreaN-6 Creat-0.8 Na-140 
K-4.0 Cl-102 HCO3-27 AnGap-11
___ 07:08AM BLOOD Calcium-9.8 Phos-3.1 Mg-2.1

===================
IMAGING AND REPORTS:
===================
IMAGING: Reviewed in OMR 
-CT ___: Impression: Satisfactory drainage of pelvic
abscess.
Ovarian cysts, enlarged fibroid uterus.4.2 cm complex right 
renal
mass (known Bosniak ___ complex renal cysts followed at ___.
Hepatic and renal cysts, also subcentimeter hypodensities in the
liver and kidneys that likely represent cysts but are too small
to accurately characterize. Filling defect in the gallbladder
that likely represents a gallstone, but is nonspecific in
character.Interval improvement in findings consistent with
proctitis.Degenerative change in the spine with grade 1 anterior
spondylolisthesis of L5 on S1.Hemangioma of bone L3.

-OSH MRI Pelvis ___, ___ Interpretation):
Impression: 1) Findings consistent with acute diverticulitis
complicated by extensive surrounding phlegmon in the sigmoid
mesocolon with inflammatory changes extending towards the left
uterus and ovary, resulting in a 4.9 cm intrauterine abscess.
2)Likely reactive proctitis. 3) Bilateral simple appearing
ovarian cysts, 2.6 cm on the right, and 1.4 cm on the left.
 
-OSH MRI Pelvis ___, OSH Interpretation): Impression: Findings
c/w with sigmoid diverticulitis with an intense inflammatory
process involving the mesentery and uterus, with an associated
4.4cm intrauterine abscess (L lateral wall, 4.2,4.4x 3.9).
Underlying malignancy cannot be excluded. 

PROCEDURE REPORTS 
___ ___ ASPIRAITON REPORT
FINDINGS:
1. Again noted is an uterine abscess measuring 4.2 x 3.5 cm.
2. This abscess was targeted for a drain placement.
3. Successful CT-guided placement of a 10 ___ drain in the 
abscess.
4. A total of 40 CC of pus was removed.  10 cc was sent for 
culture.
5. No immediate complication.
 
IMPRESSION: 
Successful CT-guided placement of ___ pigtail catheter 
into the collection. Samples were sent for microbiology 
evaluation.

============
MICROBIOLOGY
============
Uterine Abscess (___):
- Gram stain: mixed GNRs, GPCs, GPRs. 
- Fluid culture: beta-lactamase resistant B-fragilis 

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE: 
==========================
Ms. ___ an ___ w/ PMHx of mild vascular dementia, complex 
renal cysts, and HTN, admitted to OSH ___ s/p fall and found to 
have sigmoid diverticulitis with intense inflammatory process 
involving mesentery and uterus with associated 4.4cm 
polymicrobial intrauterine abscess, transferred for further 
management to ___ (___), s/p ___ drainage w/ frank pus (___), 
with subsequent hospital course c/b persistent abdominal pain, 
tachycardia, leukocytosis, who improved clinically with 
antibiotics (zosyn ___, CTX/flagyl ___, 
levo/flagyl ___. Patient discharged with intrabdominal 
drain in place, with plan follow up for drain removal. 

ACTIVE ISSUES:  
====================  
#Intrauterine abscess +GNR/GPR/GPC, +B-lactamase B fragilis: 
Patient found to have intrabdominal abscess on MRI pelvis 
(___), concern for diverticulitis with intense inflammatory 
process involving mesentery and uterus with associated 4.4cm 
polymicrobial intrauterine abscess. Patient underwent drain 
placement with ___, culture consistent with polymicrobial 
infection. Patient also evaluated by OB/GYN who evaluated 
patient and did not recommend surgical intervention. Repeat CT 
A/P (___) with interval resolution of intrabdominal abscess. ID 
was consulted, patient received zosyn ___, CTX/flagyl 
___, levo/flagyl ___. Discharged with 
drain in place and plan for follow up for drain removal. Please 
repeat CT A/P in ___ weeks to confirm resolution of infection. 
Can consider outpatient colonoscopy to r/o underlying malignancy 
given diverticulitis if within goals of care.

#Sinus Tachycardia/HTN: 
Patient was intermittently tachycardic (90-110s) and 
hypertensive (max 170s, mainly BPs 130-140s) during this 
admission, most likely due to holding of her BP medications in 
setting of infection. We will defer restarting BP medications 
(lisinopril, HCTZ, ACEi), and have her PCP address possible 
reinitiation of these medications on follow-up. 

#Vascular dementia: 
Patient has been on full dose aspirin for many years prior to 
admission for vascular dementia, as well as galantamine. This 
admission her full-dose aspirin was held. Using ACCrisk 
calculator with maximum age (___), average values for 
hyperlipidemia (total cholesterol 240, HDL 50), low range 
SBP/DBP (140/80, off BP meds this admission), ___ year risk is 
35.2%, despite high calculated risk USPTF does not recommend ASA 
for heart disease and stroke risk reduction. 

#Watery Diarrhea: The patient had watery diarrhea throughout 
this hospitalization with negative C-diff testing, most likely 
due to colonic inflammation (preceded antibiotic initiation) 
though possibly exacerbated by antibiotic treatment. Her 
diarrhea has been gradually improving (none this AM), but we 
recommend f/u with her PCP for further diarrhea evaluation if 
her symptoms persist more than 1 week after discharge. 

#GERD/Nausea: Patient has had intermittent mild reflux this 
admission. We are sending her out on Maalox and would recommend 
continuing this for the duration of her antibiotic course. 

CHRONIC/STABLE ISSUES:  
======================  
#Hyperlipidemia: Continued home simvastatin at existing dose 
this hospitalization and can continue as outpatient. 

TRANSITIONAL ISSUES: 
==================== 
- Held blood pressure medications at discharge given infection. 
Please monitor BP and consider restarting as an outpatient. 
- Please ensure resolution of diarrhea.
- Held Aspirin 325mg given patient does not have cardiac risk 
factors for primary prevention. Can discuss with patient further 
as an outpatient. 
- Discuss interval CT ___ weeks after d/c to confirm resolution 
of infection.
- Can consider sigmoidoscopy/colonscopy this year to r/o occult 
malignant process given diverticulitis.
- Please have patient follow up with Gyn given bilateral ovarian 
cysts incidentally noted on CT A/P. 
- Noted to have 4.2 cm complex right renal mass consistent with 
neoplastic disease on CT A/P. Per review of ___ records, cyst is 
similar in size and complexity to prior imaging. Please continue 
to follow with ___ for screening imaging.
- Noted to have filling defect in the gallbladder that likely 
represents a gallstone. Patient was asymptomatic without LFT 
abnormalities, can consider follow up imaging. 

-Drain Management Instructions:
================================
-Please look at the site every day for signs of infection
(increased redness or pain, swelling, odor, yellow or bloody
discharge, warm to touch, fever).
-Note color, consistency, and amount of fluid in the drain. Call
the doctor, ___, or ___ nurse if the amount
increases significantly or changes in character.
-Be sure to empty the drain bag or bulb frequently. Record the
output daily.
-You may shower; wash the area gently with warm, soapy water.
-Keep the insertion site clean and dry otherwise.
-Avoid swimming, baths, hot tubs; do not submerge yourself in
water.
- If you develop worsening abdominal pain, fevers or chills
please call Interventional Radiology at ___ at ___ 
and
page ___.
-When the drainage total is LESS THAN 10ml for 2 days in a row,
please have the ___ call Interventional Radiology at ___ at
___ and page ___. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. galantamine 16 mg oral DAILY 
5. Atenolol 100 mg PO DAILY 
6. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
acid reflux 
RX *alum-mag hydroxide-simeth [Maalox Advanced] 200 mg-200 mg-20 
mg/5 mL ___ ml by mouth Four times daily as needed Disp #*355 
Milliliter Milliliter Refills:*0 
2.  LevoFLOXacin 750 mg PO Q48H diverticulitis Duration: 1 Dose 
RX *levofloxacin [Levaquin] 750 mg 750 mg by mouth Once Disp #*1 
Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 500 tablet(s) by mouth three times a 
day Disp #*7 Tablet Refills:*0 
4.  galantamine 16 mg oral DAILY  
5.  Simvastatin 20 mg PO QPM  
6. HELD- Atenolol 100 mg PO DAILY  This medication was held. Do 
not restart Atenolol until you see your primary care provider to 
discuss further blood pressure management. 
7. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until you see your 
primary care provider to discuss further blood pressure 
management. 
8. HELD- Lisinopril 40 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until you see your primary care provider 
to discuss further blood pressure management. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Sigmoid diverticulitis with uterine abscess. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
  
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  

You were transferred from ___ for treatment of 
diverticulitis and uterine abscess. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  

You were found to have DIVERTICULITIS, which is inflammation of 
small pouches in the colon.  This was associated with an ABSCESS 
in your uterus. You were treated with an antibiotic called ZOSYN 
and then you were switched to oral antibiotics called 
Levofloxacin and Metronidazole.  The abscess in your uterine was 
drained, as well. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.
- Please take your antibiotics (Levofloxacin and Flagyl) through 
___.
- You will have a visiting nurse that will help you manage your 
intrabdominal drain.

We wish you the best!

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___